US09163011B2
b) 3-Amino-5-(2,2-dimethoxy-ethyl)-pyrazine-2-carboxylic acid methyl ester
A solution of 3-amino-5-((Z)-2-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester (220 mg, 0.986 mmol) in 3M HCl in MeOH (210 μl, 6.90 mmol) was heated at 55° C. over night. A solution of 10% of NaHCO3 was added the mixture was extracted with EtOAc. The combined organic layer was dried with Na2SO4, filtered and concentrated under reduced pressure to obtain a brown solid (141 mg). The crude material was directly used in the next step without further purification.

reactant | 3-amino-5-((Z)-2-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester | 0.986 mmol, 220 mg | COC(=O)C1=NC=C(N=C1N)\C=C/OCC | C10H13N3O3
reactant | MeOH | 6.90 mmol, 210 μl | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 3M | Cl | ClH
product | 3-Amino-5-(2,2-dimethoxy-ethyl)-pyrazine-2-carboxylic acid methyl ester | 141 mg | COC(=O)C1=NC=C(N=C1N)CC(OC)OC | C10H15N3O4
